US09422271B2
A mixture of 2-(2,4-dibromopyrimidin-5-yl)ethyl acetate (650 mg, 2.0 mmol, 1.0 eq), 5-cyclopropyl-1H-pyrazol-3-amine (296 mg, 2.4 mmol, 1.2 eq) and DIPEA (387 mg, 3.0 mmol, 1.5 eq) in propan-2-ol (10 mL) was stirred at 60° C. for 16 h. The mixture was extracted with EtOAc. The combined organic phases were washed (brine), dried (Na2SO4), filtered and concentrated to give a residue, which was purified by silica gel column chromatography (PE/EtOAc=1:2) to give 2-(2-bromo-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-5-yl)ethyl acetate (390 mg, 53%) as a white solid. LC-MS (m/z)=366 [M+H]+

reactant | 2-(2,4-dibromopyrimidin-5-yl)ethyl acetate | 2.0 mmol, 650 mg, 1.0 eq | C(C)(=O)OCCC=1C(=NC(=NC1)Br)Br | C8H8Br2N2O2
reactant | 5-cyclopropyl-1H-pyrazol-3-amine | 2.4 mmol, 296 mg, 1.2 eq | C1(CC1)C1=CC(=NN1)N | C6H9N3
reactant | DIPEA | 3.0 mmol, 387 mg, 1.5 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | propan-2-ol | 10 mL | CC(C)O | C3H8O
product | 2-(2-bromo-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-5-yl)ethyl acetate | 390 mg, 53% | C(C)(=O)OCCC=1C(=NC(=NC1)Br)NC1=NNC(=C1)C1CC1 | C14H16BrN5O2
